US04560692
(b) 4-Chloro-2-(4-chlorophenyl)-6-fluoroquinoline
A mixture of 25 g (91 mmol) of 2-(4-chlorophenyl)-6-fluoro-4-hydroxyquinoline and 50 ml of phosphorus oxychloride was stirred and heated under reflux for 2 hr. It was then cooled, poured onto ice and diluted with 500 ml of methylene chloride. This mixture was then made alkaline with 3N sodium hydroxide. The organic phase was separated, and the aqueous phase was extracted with 2×200 ml of methylene chloride. The organic extracts were combined, washed with water and with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was collected and washed with hexane to give 22.2 g of product as a brownish solid, mp 169°-172°.

reactant | 2-(4-chlorophenyl)-6-fluoro-4-hydroxyquinoline | 91 mmol, 25 g | ClC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)O)F | C15H9ClFNO
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(4-chlorophenyl)-6-fluoroquinoline | 22.2 g | ClC1=CC(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)Cl | C15H8Cl2FN
